US07615642B2
1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 24, Step A, using ethylamine hydrochloride (29 mg, 0.36 mmol), DIPEA (104 uL, 77 mg, 0.59 mmol), 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (0.18 mmol) and HATU (109 mg, 0.29 mmol) in DMF (3 mL). The crude product was purified by MPLC using Hex/EtOAc (1:4) on silica gel to give 53 mg (61%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.77 (t, J=7.42 Hz, 3 H), 1.15 (t, J=7.32 Hz, 3 H), 1.39-1.57 (m, 4 H), 1.58 (s, 6 H), 1.94 (q, J=7.68 Hz, 2 H), 2.19-2.37 (m, 1 H), 3.24-3.40 (m, 4 H), 3.83-3.94 (m, 2 H), 4.41 (d, J=7.23 Hz, 2 H), 7.92 (d, J=8.8 Hz, 1 H), 7.99 (dd, J=8.8, 1.4 Hz, 1 H), 8.04 (s, 1 H), 8.34 (d, J=1.17 Hz, 1 H), 8.74 (s, 1 H); MS (ESI) (M+H)+=488.0; Anal. Calcd for C24H33N5O4S+0.9 TFA+0.3H2O (595.65): C, 52.02; H, 5.84; N, 11.76. Found: C, 52.01; H, 5.66; N, 11.91.

reactant | ethylamine hydrochloride | 0.36 mmol, 29 mg | Cl.C(C)N
reactant | DIPEA | 0.59 mmol, 104 uL, 77 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.18 mmol | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C22H28N4O5S
reactant | HATU | 0.29 mmol, 109 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrazole-4-carboxamide | 53 mg, 61% | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NCC | C24H33N5O4S
